US06858638B2
5-Amino-3-phenylethynyl-1-(2-trimethylsilanylethoxymethyl)-1H-indazole can be obtained in the following way: 18 ml of water, 0.2 ml of an aqueous 12N hydrochloric acid solution and 0.36 g of powdered iron are added to a solution of 0.84 g of 5-nitro-3-phenylethynyl-1-(2-trimethylsilanylethoxymethyl)-1H-indazole in 15 ml of absolute ethanol, at the reflux temperature of the solvent. The reaction mixture is then stirred at the reflux of the solvent for 4 hours, and is then cooled to a temperature in the region of 20° C. After filtration through Celite® and washing with absolute ethanol, the filtrate is concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 35° C. The residue thus obtained is purified by chromatography under argon pressure (50 kPa), on a column of 60 g of silica (particle size 40-63 μm), eluting successively with cyclohexane/ethyl acetate (95/5; 90/10; 80/20; 70/30; 60/40; 50/50; 30/70 by volume) mixtures, and then with pure ethyl acetate and, finally, with pure ethanol. The fractions containing the expected product are pooled and concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 35° C. 0.11 g of 5-amino-3-phenylethynyl-1-(2-trimethylsilanylethoxymethyl)-1H-indazole is thus obtained in the form of a brown oil (Rf=0.47, silica gel thin layer chromatography, eluent: cyclohexane/ethyl acetate (60/40 by volume)). 0.2 g of 5-amino-3-phenylethynyl-1H-indazole is also obtained in the form of a brown oil (Rf=0.17, silica gel thin layer chromatography, eluent: cyclohexane/ethyl acetate (60/40 by volume)).

reactant | water | 18 ml | O | H2O
reactant | hydrochloric acid | 12N | Cl | ClH
reactant | 5-nitro-3-phenylethynyl-1-(2-trimethylsilanylethoxymethyl)-1H-indazole | 0.84 g | [N+](=O)([O-])C=1C=C2C(=NN(C2=CC1)COCC[Si](C)(C)C)C#CC1=CC=CC=C1 | C21H23N3O3Si
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | iron | 0.36 g | [Fe] | Fe
product | 5-amino-3-phenylethynyl-1-(2-trimethylsilanylethoxymethyl)-1H-indazole | 0.11 g | NC=1C=C2C(=NN(C2=CC1)COCC[Si](C)(C)C)C#CC1=CC=CC=C1 | C21H25N3OSi
